US07429581B2
(iv) 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-5-furan-2-yl-1H-pyrazole-3-carboxylic acid ethyl ester
A solution of 550 mg 4-Furan-2-yl-2,4-dioxo-butyric acid ethyl ester and 601 mg [5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-hydrazine in 10 ml acetic acid was heated to 80° C. for 2 h. Then the reaction mixture was diluted with 20 ml water and extracted with ethyl acetate (3×100 ml). The combined organic layers were dried over MgSO4. The solvents were removed under reduced pressure and the residue was purified by silica gel chromatography eluting with a n-heptane:ethyl acetate gradient 100%->50%.

reactant | 4-Furan-2-yl-2,4-dioxo-butyric acid ethyl ester | 550 mg | C(C)OC(C(CC(=O)C=1OC=CC1)=O)=O | C10H10O5
reactant | [5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-hydrazine | 601 mg | ClC1=CC=C(S1)C1=CC(=NO1)CNN | C8H8ClN3OS
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | water | 20 ml | O | H2O
product | 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-5-furan-2-yl-1H-pyrazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=NN(C(=C1)C=1OC=CC1)CC1=NOC(=C1)C=1SC(=CC1)Cl | C18H14ClN3O4S
